US07834000B2
A solution of benzyl 3-oxo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate (3 g, 10.3 mmol) in EtOH (30 mL) containing NH2OH.HCl (1.43 g, 20.6 mmol) and NaOAc (1.52 g, 18.53 mmol) was heated under reflux for 1.5 h. The solvent was removed by evaporation and the residue was partitioned between CH2Cl2 and water. The organic phase was washed with brine, dried over Na2SO4, and concentrated to provide benzyl 3-(hydroxyimino)-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate (3.14 g, yield 99%), which was used directly in the next step.

reactant | benzyl 3-oxo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate | 10.3 mmol, 3 g | O=C1CC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)C2=CC=CC=C12 | C21H21NO3
reactant | NH2OH.HCl | 20.6 mmol, 1.43 g | NO.Cl
reactant | NaOAc | 18.53 mmol, 1.52 g | CC(=O)[O-].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | benzyl 3-(hydroxyimino)-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate | 3.14 g, yield 99% | ON=C1CC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)C2=CC=CC=C12 | C21H22N2O3
